US03993658
When equivalent amounts of 5,6-dimethoxy-4,5,6,7-tetrahydro-1,3-diiminoisoindoline and 2-(3-phenylpropylamino)-4-imino-2-thiazoline hydrochloride are substituted for the 4,5,6,7-tetrahydro-1,3-diiminoisoindoline and 2,4-diiminothiazolidine hydrochloride respectively, in the procedure described in Example 10, part A above, there is obtained as the product 1-imino-5,6-di-methoxy-4,5,6,7-tetrahydro-3-[2-(3-phenylpropylamino)-4-imino-2-thiazolin-5-ylidene]isoindoline.

reactant | 5,6-dimethoxy-4,5,6,7-tetrahydro-1,3-diiminoisoindoline | COC1CC=2C(NC(C2CC1OC)=N)=N | C10H15N3O2
reactant | 2-(3-phenylpropylamino)-4-imino-2-thiazoline hydrochloride | Cl.C1(=CC=CC=C1)CCCNC=1SCC(N1)=N
reactant | 4,5,6,7-tetrahydro-1,3-diiminoisoindoline | N=C1NC(C=2CCCCC12)=N | C8H11N3
reactant | 2,4-diiminothiazolidine hydrochloride | Cl.N=C1SCC(N1)=N
product | 1-imino-5,6-di-methoxy-4,5,6,7-tetrahydro-3-[2-(3-phenylpropylamino)-4-imino-2-thiazolin-5-ylidene]isoindoline | N=C1NC(C=2CC(C(CC12)OC)OC)=C1C(N=C(S1)NCCCC1=CC=CC=C1)=N | C22H27N5O2S
